US07888366B2
A solution of methyl 3-chlorobenzoate (0.27 g, 1.58 mmol) and diiodomethane) in anhydrous tetrahydrofuran was added slowly to a vigorously stirred and heated (50° C.) slurry of samarium powder (1.0 g, 6.65 mmol) in tetrahydrofuran over 1.5 hours. After complete addition, the reaction mixture was stirred for 1 hour, than cooled (−10° C.), quenched with 1 N hydrochloric acid over 30 min. The reaction mixture was extracted with ether, dried, filtered and concentrated. Purification by silica gel chromatography (1:1 hexanes in dichloromethane) afford 100 mg of 1-(3-chlorophenyl)cyclopropanol.

reactant | methyl 3-chlorobenzoate | 1.58 mmol, 0.27 g | ClC=1C=C(C(=O)OC)C=CC1 | C8H7ClO2
reactant | diiodomethane | ICI | CH2I2
reactant | samarium | 6.65 mmol, 1.0 g | [Sm] | Sm
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(3-chlorophenyl)cyclopropanol | 100 mg | ClC=1C=C(C=CC1)C1(CC1)O | C9H9ClO
